US05462934
1-(3-Methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)2-propen-1-one hydrochloride
In 30 ml of 1,2-dichloroethane, was dissolved 1.28 g of 3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride. To the solution were added, at room temperature, 2.1 g of aluminum chloride and 0.66 ml of 3-chloropropionyl chloride, then the mixture was stirred for 2 hours. The reaction mixture was poured into 50 ml of ice-water, then the pH of the aqueous solution was adjusted to not lower than 9 with a 40% aqueous solution of sodium hdyroxide, followed by extraction with 50 ml of dichloromethane. The organic layer was washed with 50 ml of pure water, which was then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give an oily residue, which was crystallized from dichloromethane-ether to afford 0.83 g of the title compound as pale yellow crystals, m.p.120°-123° C.

reactant | 3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 1.28 g | Cl.CN1CCC2=C(CC1)C=CC=C2
reactant | aluminum chloride | 2.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-chloropropionyl chloride | 0.66 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | sodium | [Na] | Na
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 1-(3-Methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)2-propen-1-one hydrochloride | 0.83 g | Cl.CN1CCC2=C(CC1)C=CC(=C2)C(C=C)=O | InChI=1S/C14H17NO.ClH/c1-3-14(16)13-5-4-11-6-8-15(2)9-7-12(11)10-13;/h3-5,10H,1,6-9H2,2H3;1H
